US08389720B2
1-Methyl-3-[({[3-(4-methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methyl}amino)methyl]quinolin-2(1H)-one
To a solution of 1-[3-(4-methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methanamine (250 mg, 1.109 mmole) in 1,2-dichloroethane (4 ml) was added AcOH (290 μL, 5.07 mmole) then 1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde (190 mg, 1.015 mmole). After 20 min sodium triacetoxyborohydride (323 mg, 1.522 mmole) was added. After 16 hr the mixture was diluted with 1M aqueous NaOH and extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (gradient, 0-10% MeOH/CH2Cl2) gave the title compound as a pale yellow oil (279 mg, 69%). 1H-NMR (CDCl3, 500 MHz) d 7.70 (s, 1 H), 7.56 (m, 2 H), 7.35 (d, J=8.30 Hz, 1 H), 7.25 (m, 1 H), 6.24 (d, J=6.6 Hz, 1 H), 4.59 (m, 1 H), 4.25 (dd AB, J=12.94 and 44.19 Hz, 2 H), 3.80 (m, 2 H), 3.74 (s, 3 H), 2.71-2.61 (m, 6 H), 2.44 (m, 4 H), 2.28 (s, 3 H), 2.21-2.06 (m, 4 H), 1.51 (m, 1 H).

reactant | 1-[3-(4-methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methanamine | 1.109 mmole, 250 mg | CN1CCN(CC1)C1(COC=CCC1)CN | C12H23N3O
reactant | AcOH | 5.07 mmole, 290 μL | CC(=O)O | C2H4O2
reactant | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde | 1.015 mmole, 190 mg | CN1C(C(=CC2=CC=CC=C12)C=O)=O | C11H9NO2
reactant | sodium triacetoxyborohydride | 1.522 mmole, 323 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 4 ml | ClCCCl | C2H4Cl2
solvent | NaOH | 1M | [OH-].[Na+]
product | 1-Methyl-3-[({[3-(4-methylpiperazin-1-yl)-2,3,4,5-tetrahydrooxepin-3-yl]methyl}amino)methyl]quinolin-2(1H)-one | 279 mg, 69% | CN1C(C(=CC2=CC=CC=C12)CNCC1(COC=CCC1)N1CCN(CC1)C)=O | C23H32N4O2
